US08017646B2
To a solution of 3-(3,4-dimethoxyphenyl)propan-1-ol (2.35 g) in triethylamine (2.5 mL) and dichloromethane (50 mL) stirred at a temperature close to 0° C. is added dropwise methanesulfonyl chloride (1.7 mL). The mixture is stirred overnight, concentrated under reduced pressure, dissolved in ethyl acetate. The organic layer is washed successively with water, a 0.1N aqueous hydrochloric solution, a saturated aqueous sodium hydrogenocarbonate solution and water, dried over magnesium sulphate, concentrated under reduced pressure and purified by chromatography over silica gel with heptane/ethyl acetate 7/3 as eluent. Fractions containing the expected product are pooled and concentrated under reduced pressure to give 3 g of 3-(3,4-dimethoxyphenyl)propan-1-ol mesylate used without further purification.

reactant | 3-(3,4-dimethoxyphenyl)propan-1-ol | 2.35 g | COC=1C=C(C=CC1OC)CCCO | C11H16O3
reactant | methanesulfonyl chloride | 1.7 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 2.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-(3,4-dimethoxyphenyl)propan-1-ol mesylate | 3 g | S(C)(=O)(=O)OCCCC1=CC(=C(C=C1)OC)OC | C12H18O5S
